US07459562B2
A) (3R,4R)-1-(2-Methylbut-3-yn-2-yl)-4-(pyrrolidin-1-yl)pyrrolidin-3-ol
A mixture of (3R,4R)-4-(pyrrolidin-1-yl)pyrrolidin-3-ol (Lexicon Pharma, 1.56 g, 10.0 mmol) and 3-chloro-3-methyl-1-butyne (GFS Chmeical, Inc., 1.36 g, 13.2 mmol), THF (15 mL) and Et3N (13.3 mmol) was treated with CuI (77 mg, 0.78 mmol). An exothermic reaction ensued with concomitant formation of a precipitate. After stirring at RT for 15 h, the mixture was concentrated in vacuo and partitioned between EtOAc and saturated aqueous NaHCO3 solution. The aqueous phase was extracted twice with EtOAc and the combined EtOAc phases were dried (MgSO4) and concentrated to give a light brown solid (1.0 g, 45%). 1H NMR (CDCl3) δ 4.20 (br s, 1H), 3.13-3.04 (m, 1H), 2.95 (dd, 1H, J=10.1, 6.6 Hz), 2.77 (dd, 1H, J=10.1, 2.6 Hz), 2.64 (m, 3H), 2.61 (m, 2H), 2.55-2.46 (m, 1H), 2.26 (s, 1H), 1.85-1.74 (m, 4H), 1.38 (s, 3H), 1.36 (s, 3H); MS(ESI+): m/z 223.29 (M+H)+.

reactant | (3R,4R)-4-(pyrrolidin-1-yl)pyrrolidin-3-ol | 10.0 mmol, 1.56 g | N1(CCCC1)[C@H]1[C@@H](CNC1)O | C8H16N2O
reactant | 3-chloro-3-methyl-1-butyne | 13.2 mmol, 1.36 g | ClC(C#C)(C)C | C5H7Cl
reactant | Et3N | 13.3 mmol | CCN(CC)CC | C6H15N
catalyst | CuI | 0.78 mmol, 77 mg | [Cu]I
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (3R,4R)-1-(2-Methylbut-3-yn-2-yl)-4-(pyrrolidin-1-yl)pyrrolidin-3-ol | 1.0 g, 45% | CC(C)(C#C)N1C[C@H]([C@@H](C1)N1CCCC1)O | C13H22N2O
